US09334263B2
Synthesis of 2-methyl-1-(4-nitrophenyl)propane-1,2-diol
To a solution of N-methyl morpholine-N-oxide (1.5 g, 12.8 mmol) in 4.5 mL of water was added a solution of tert-butyl 1-(2-methylprop-1-enyl)-4-nitrobenzene (1.5 g, 8.5 mmol) in acetone/water (5:1, 36 mL), followed by the addition of a solution of osmium tetraoxide in water (2 mL, 4%). This mixture was allowed to RT and stirred for 16 h. The reaction was quenched by sat. Na2SO3. aq (100 mL) and extracted with EtOAc (50 mL x 3). The combined organic layers were washed with water and brine, dried over Na2SO4, filtered and concentrated under vacuo. The crude product (1.7 g, yield 100%) was obtained as a yellow foam, which was directly used into the next step without further purification. 1H-NMR (400 MHz, CDCl3) δ ppm 8.20 (d, 2H, J=9.2 Hz), 7.57 (d, 2H, J=9.2 Hz), 4.63 (d, 1H, J=2.4 Hz), 2.69 (d, 1H, J=3.2 Hz), 2.03 (d, 1H, J=3.2 Hz), 1.19 (s, 3H), 1.08 (s, 3H).

reactant | N-methyl morpholine-N-oxide | 12.8 mmol, 1.5 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | tert-butyl 1-(2-methylprop-1-enyl)-4-nitrobenzene | 8.5 mmol, 1.5 g | C(C)(C)(C)C1=C(C=CC(=C1)[N+](=O)[O-])C=C(C)C | C14H19NO2
reactant | water | 4.5 mL | O | H2O
reactant | water | 2 mL | O | H2O
solvent | acetone water | 36 mL | CC(=O)C.O
catalyst | osmium tetraoxide | [Os](=O)(=O)(=O)=O
product | 2-methyl-1-(4-nitrophenyl)propane-1,2-diol | 1.7 g, yield 100% | CC(C(O)C1=CC=C(C=C1)[N+](=O)[O-])(C)O | C10H13NO4
